US05304549
A mixture of 0.496 g of 1,2-dibenzyl 1-tert.butyl 1-(formylmethyl)-4-methyl-1,1,2(R)-pentane tricarboxylate, 0.176 g of potassium carbonate and 0.576 g of 3-phenylpropyltriphenylphosphonium bromide in 8 ml of dry tetrahydrofuran was heated at reflux under a nitrogen atmosphere for 3 days. The solvent was removed by evaporation and stirred with diethyl acetate. The solids which separated were filtered off and the filtrate was evaporated. The residue was purified by flash chromatography on silica gel using hexane/ethyl acetate (6:1) for the elution. There was obtained 0.397 g of 1,2-dibenzyl 1-tert.butyl 4-methyl-1-(5-phenyl-pent-2-en-1-yl)-1,1,2(R)-pentanetricarboxylate in the form of a colorless oil.

reactant | 1,2-dibenzyl 1-tert.butyl 1-(formylmethyl)-4-methyl-1,1,2(R)-pentane tricarboxylate | 0.496 g | C(=O)CC([C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)(C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C29H36O7
reactant | potassium carbonate | 0.176 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-phenylpropyltriphenylphosphonium bromide | 0.576 g | [Br-].C1(=CC=CC=C1)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 1,2-dibenzyl 1-tert.butyl 4-methyl-1-(5-phenyl-pent-2-en-1-yl)-1,1,2(R)-pentanetricarboxylate | 0.397 g | CC(C[C@H](C(C(=O)OCC1=CC=CC=C1)(C(=O)OC(C)(C)C)CC=CCCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C | C38H46O6
